US06110929
Under a nitrogen atmosphere, a mixture of 3-(trifluoromethyl)aniline (40 mL, 0.32 mmol) and diethyl ethoxymethylmalonate was heated at 100° C. for 3 hours. The reaction mixture was allowed to cool to room temperature at which time the solution solidified to provide 102 g of diethyl 2-{[3-(trifluoromethyl)anilino]methylene}malonate as a cream colored solid.

reactant | 3-(trifluoromethyl)aniline | 0.32 mmol, 40 mL | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | diethyl ethoxymethylmalonate | C(C)OCC(C(=O)OCC)C(=O)OCC | C10H18O5
product | diethyl 2-{[3-(trifluoromethyl)anilino]methylene}malonate | 102 g | FC(C=1C=C(NC=C(C(=O)OCC)C(=O)OCC)C=CC1)(F)F | C15H16F3NO4
